US07914862B2
2.55 g of trimethylsilylacetylene was dissolved in 20 mL THF, and then 15.7 mL of a 1.66 M hexane solution of n-butyllithium was added dropwise thereto at −70° C., followed by stirring at that temperature for 1 hour. To the resulting solution, a solution containing 9.12 g of 5-[4-(4-ethoxy-2,3-difluorophenoxymethyl)cyclohexyl]tetrahydropyran-2-one obtained in the twelfth step of Example 1 dissolved in 30 mL of THF was added dropwise at −70° C., followed by stirring at that temperature for 1 hour, and then the temperature of the solution was gradually increased to room temperature. The reaction product was poured into 50 mL of a saturated ammonium chloride aqueous solution, and the mixture was extracted with diethyl ether. The organic layer was washed with water and concentrated under reduced pressure. The resulting brown residue was purified by silica gel column chromatography to provide 10.7 g of 5-[4-(4-ethoxy-2,3-difluorophenoxymethyl)cyclohexyl]-2-trimethylsilanylethynyltetrahydropyran-2-ol as a brown solid.

reactant | trimethylsilylacetylene | 2.55 g | C[Si](C)(C)C#C | C5H10Si
reactant | n-butyllithium | C(CCC)[Li]
reactant | 5-[4-(4-ethoxy-2,3-difluorophenoxymethyl)cyclohexyl]tetrahydropyran-2-one | 9.12 g | C(C)OC1=C(C(=C(OCC2CCC(CC2)C2CCC(OC2)=O)C=C1)F)F | C20H26F2O4
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | hexane | 1.66 M | CCCCCC | C6H14
product | 5-[4-(4-ethoxy-2,3-difluorophenoxymethyl)cyclohexyl]-2-trimethylsilanylethynyltetrahydropyran-2-ol | 10.7 g | C(C)OC1=C(C(=C(OCC2CCC(CC2)C2CCC(OC2)(O)C#C[Si](C)(C)C)C=C1)F)F | C25H36F2O4Si
